US07173135B2
3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt
A mixture of 4-chloro-3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline (125 mg) and 4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline (179 mg) in 1-propanol (8 ml) was treated with a 11.0M solution of hydrogen chloride in diethyl ether (0.30 ml) then stirred and heated at reflux for 1 hour. The mixture was allowed to cool and neutralised by the addition of tetramethylguanidine (0.10 ml). The resulting solution was evaporated to dryness and the residue was purified by chromatography on a Biotage silica cartridge (20 g) eluting with a gradient of methanol in dichloromethane (1–10%). The fractions containing the product were combined and evaporated. The residue was dissolved in ethanol (8 ml) and treated with 2 equivalents of hydrogen chloride (1.0M in diethyl ether). The title compound was thus obtained as a white solid (130 mg); NMR Spectrum: (DMSOd6, 300K) 1.87 (m, 2H), 2.10 (m, 2H), 2.31 (m, 2H), 3.11 (m, 2H), 3.30 (m, 2H), 3.36 (s, 3H), 3.50 (m, 4H), 3.87 (m, 4H), 3.97 (m, 2H), 4.32 (m, 2H), 4.37 (s, 2H), 5.10 (m, 1H), 6.18 (s, 2H), 1.05 (m, 3H), 7.13 (s, 1H), 8.87 (s, 1H), 10.43 (s, 1H), 11.34 (s, 1H); Mass Spectrum: M+H+ 601.

reactant | 4-chloro-3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)quinoline | 125 mg | ClC1=C(C=NC2=CC(=CC(=C12)OC1CCOCC1)OCCCN1CCOCC1)C#N | C22H26ClN3O4
reactant | 4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline | 179 mg | COCC#CC1=C2C(=C(N)C=C1)OCO2 | C11H11NO3
reactant | hydrogen chloride | Cl | ClH
reactant | tetramethylguanidine | 0.10 ml | CN(C(N(C)C)=N)C | C5H13N3
reactant | hydrogen chloride | 1.0M, 2 equivalents | Cl | ClH
solvent | 1-propanol | 8 ml | C(CC)O | C3H8O
solvent | diethyl ether | 0.30 ml | C(C)OCC | C4H10O
product | 3-cyano-7-(3-morpholin-4-ylpropoxy)-5-(tetrahydro-2H-pyran-4-yloxy)-4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt | Cl.Cl.C(#N)C=1C=NC2=CC(=CC(=C2C1NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC2CCOCC2)OCCCN2CCOCC2 | InChI=1S/C33H36N4O7.2ClH/c1-38-12-2-4-23-5-6-27(33-32(23)42-22-43-33)36-31-24(20-34)21-35-28-18-26(41-13-3-9-37-10-16-40-17-11-37)19-29(30(28)31)44-25-7-14-39-15-8-25;;/h5-6,18-19,21,25H,3,7-17,22H2,1H3,(H,35,36);2*1H
